US05962002
(a) Preparation of 6-methyl-naphthalene-1,4-dione
A solution of 1,4-benzoquinone (13.9 g, 128 mmol) and isoprene (13.1 ml, 131 mmol) was stirred in glacial acetic acid (44 ml) for 68 hours at room temperature. The mixture was diluted with water (44 ml) and refluxed for 11/2 hours. The mixture was cooled to room temperature and acetic acid (84 ml) and chromic acid [chromium trioxide (29.4 g) in water (30 ml)] was added sequentially, before refluxing for a further 11/2 hours. After cooling, the mixture was diluted with water (200 ml) and extracted with ether (3×50 ml). The combined ether fractions were washed with dilute sodium hydroxide solution (2M; 2×50 ml), water (2×50 ml), saturated sodium chloride solution (50 ml) and dried over magnesium sulphate. Filtration and evaporation of solvent under reduced pressure, and repeated recrystallisation from petroleum ether yielded the title compound (7 g).

reactant | 1,4-benzoquinone | 128 mmol, 13.9 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | isoprene | 131 mmol, 13.1 ml | C=CC(C)=C | C5H8
reactant | chromic acid | 30 ml, 29.4 g | [Cr](=O)(=O)(O)O
solvent | acetic acid | 44 ml | C(C)(=O)O | C2H4O2
solvent | water | 44 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 84 ml | C(C)(=O)O | C2H4O2
product | 6-methyl-naphthalene-1,4-dione | 7 g | CC=1C=C2C(C=CC(C2=CC1)=O)=O | C11H8O2
